US07119122B2
2-Chloro-6-(trifluoromethyl)nicotinonitrile (0.34 g, 1.6 mmol), 3-hydroxy-2-methoxybenzaldehyde (0.25 g, 1.6 mmol) and potassium fluoride (0.29 g, 4.9 mmol) were heated with stirring in dry DMF (4 mL) at 120° C. for 3 h. The reaction mixture was cooled, poured into 1N sodium hydroxide solution and extracted with ethyl acetate. The ethyl acetate layer was separated, washed with 1N sodium hydroxide solution (3×), water (3×), brine (1×), and dried over MgSO4. After filtration, the solvent was removed in vacuo to yield 2-(3-formyl-2-methoxyphenoxy)-6-(trifluoromethyl)nicotinonitrile (0.50 g, 94%) as a yellow solid.

reactant | 2-Chloro-6-(trifluoromethyl)nicotinonitrile | 1.6 mmol, 0.34 g | ClC1=C(C#N)C=CC(=N1)C(F)(F)F | C7H2ClF3N2
reactant | 3-hydroxy-2-methoxybenzaldehyde | 1.6 mmol, 0.25 g | OC=1C(=C(C=O)C=CC1)OC | C8H8O3
reactant | potassium fluoride | 4.9 mmol, 0.29 g | [F-].[K+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-(3-formyl-2-methoxyphenoxy)-6-(trifluoromethyl)nicotinonitrile | 0.50 g, 94% | C(=O)C=1C(=C(OC2=C(C#N)C=CC(=N2)C(F)(F)F)C=CC1)OC | C15H9F3N2O3
